US08754086B2
(d) N-Boc-indole-3-carboxaldehyde
0.8754 g (6 mmol) indole-3-carboxaldehyde was taken up in 170 ml freshly distilled THF, 2.0323 g (9.3 mmol) Boc2O followed by 0.2006 g (1.6 mmol) DMAP were added and the mixture was stirred at r.t for 4 h. 75 ml H2O was added and the volatiles were evaporated. The residue was extracted with 2×75 ml EtOAc. The pooled organic phases were washed with 75 ml brine, dried over Na2SO4, filtered and evaporated. This gave 1.4790 g (6 mmol) Boc-protected indole-3-carboxaldehyde.

reactant | indole-3-carboxaldehyde | 6 mmol, 0.8754 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | THF | C1CCOC1 | C4H8O
reactant | Boc2O | 9.3 mmol, 2.0323 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 1.6 mmol, 0.2006 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | H2O | 75 ml | O | H2O
product | N-Boc-indole-3-carboxaldehyde | C(=O)(OC(C)(C)C)N1C=C(C2=CC=CC=C12)C=O | C14H15NO3
